US06140351
To a solution of 2-ethoxycarbonyl-3-nitropyridine (0.5 g, 2.5 mmoL, 1 eq.) in 20 mL of methanol and 5 mL of water was added lithium hydroxide (0.2 g, 4.5 mmoL, 1.8 eq.) and the mixture stirred for 16 hours at ambient temperature. The reaction was concentrated and 50 mL of 1N KOH was were added. The solution was washed with 25 mL of ethyl actetate, acidified with 1 N HCl, and extracted with ethyl acetate (3×50 mL). The combined ethyl acetate extractions were dried over sodium sulfate and concentrated to give 2-carboxy-3-nitropyridine as a yellow solid (0.4 g, 95% yield).

reactant | 2-ethoxycarbonyl-3-nitropyridine | 0.5 g, 1 eq. | C(C)OC(=O)C1=NC=CC=C1[N+](=O)[O-] | C8H8N2O4
reactant | lithium hydroxide | 0.2 g, 1.8 eq. | [OH-].[Li+]
solvent | methanol | 20 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
product | 2-carboxy-3-nitropyridine | 0.4 g, 95% yield | C(=O)(O)C1=NC=CC=C1[N+](=O)[O-] | C6H4N2O4
